US09447074B2
Intermediate 16: 1,1-dimethylethyl 7-{5-acetyl-2-[(2-pyrazinylmethyl)oxy]phenyl}-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate
To a stirred solution of 1-{3-bromo-4-[(2-pyrazinylmethyl)oxy]phenyl}ethanone (0.2 g) and 1,1-dimethylethyl 7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate (0.34 g) in DME (4 ml) was added aqueous sodium carbonate (2M, 0.98 ml). This was degassed with nitrogen for 15 min before adding Tetrakis (37 mg). The reaction was heated under reflux overnight. TLC indicated the reaction had gone to completion and so it was cooled, diluted with water and extracted with ethyl acetate. The combined organics were dried over sodium sulphate and concentrated in vacuo to yield a crude product which was purified by column chromatography, eluting with 0-18% ethyl acetate in hexane. The appropriate fractions were concentrated in vacuo to yield the title compound, 0.093 g, 30% yield.

reactant | 1-{3-bromo-4-[(2-pyrazinylmethyl)oxy]phenyl}ethanone | 0.2 g | BrC=1C=C(C=CC1OCC1=NC=CN=C1)C(C)=O | C13H11BrN2O2
reactant | 1,1-dimethylethyl 7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate | 0.34 g | CC1(OB(OC1(C)C)C1=CC2=C(CCN(CC2)C(=O)OC(C)(C)C)C=C1)C | C21H32BNO4
reactant | sodium carbonate | 2M, 0.98 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | DME | 4 ml | COCCOC | C4H10O2
product | 1,1-dimethylethyl 7-{5-acetyl-2-[(2-pyrazinylmethyl)oxy]phenyl}-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate | 30% yield | C(C)(=O)C=1C=CC(=C(C1)C1=CC2=C(CCN(CC2)C(=O)OC(C)(C)C)C=C1)OCC1=NC=CN=C1 | C28H31N3O4
